US04145347
From 7.0 g. of ethyl 2-oxo-1-pyrrolidineacetate and 6.3 g. of 2-(4-methyl-1-piperazinyl)propylamine, following the procedure of Example 9, there is obtained (±)-N-[2-(4-methyl-1-piperazinyl)propyl]-2-oxo-1-pyrrolidineacetamide; m.p. 84°-85° C. after recrystallization from cyclohexane and from heptane.

reactant | ethyl 2-oxo-1-pyrrolidineacetate | O=C1N(CCC1)CC(=O)OCC | C8H13NO3
reactant | 2-(4-methyl-1-piperazinyl)propylamine | CN1CCN(CC1)C(CN)C | C8H19N3
product | (±)-N-[2-(4-methyl-1-piperazinyl)propyl]-2-oxo-1-pyrrolidineacetamide | CN1CCN(CC1)C(CNC(CN1C(CCC1)=O)=O)C | C14H26N4O2
